US05342839
33. 1-[4,4-bis(4-fluorophenyl)butyl]-4-(2-hydroxy-3(4-fluorophenoxy)propyl]homopiperazine
5.9 g (0.022 mol) of 1-[2-hydroxy-3-(4-fluorophenoxy)propyl]homopiperazine and 6.2 g (0.022 mol) of 4,4-bis(4-fluorophenyl)butyl chloride were dissolved with 3.2 g of calcium carbonate in 100 ml of toluene and heated to boiling under reflux with stirring for 2.5 h. After cooling, filtration with suction was carried out, the solvent was removed by distillation under reduced pressure, and the residue was purified by column chromatography. (Silica gel, eluent methylene chloride with 4% methanol). Yield 4.0 g, oxalate, C30H35F3N2O2.2 C2H2O4, melting point 160°-165° C.

reactant | 1-[2-hydroxy-3-(4-fluorophenoxy)propyl]homopiperazine | 0.022 mol, 5.9 g | OC(CN1CCNCCC1)COC1=CC=C(C=C1)F | C14H21FN2O2
reactant | 4,4-bis(4-fluorophenyl)butyl chloride | 0.022 mol, 6.2 g | FC1=CC=C(C=C1)C(CCCCl)C1=CC=C(C=C1)F | C16H15ClF2
reactant | calcium carbonate | 3.2 g | C([O-])([O-])=O.[Ca+2]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4,4-bis(4-fluorophenyl)butyl]-4-(2-hydroxy-3(4-fluorophenoxy)propyl]homopiperazine | FC1=CC=C(C=C1)C(CCCN1CCN(CCC1)CC(COC1=CC=C(C=C1)F)O)C1=CC=C(C=C1)F | C30H35F3N2O2
